US06638934B2
Preparation of 8-(4-Methoxy-2-methylphenyl)-2,3,4,4a-tetrahydro-1H-pyrazino[1,2-a]quinoxalin-5(6H)-one.
Deprotection procedure: To a solution of 3-carbobenzyloxy-8-(4-methoxy-2-methylpheny)-2,3,4, 4a-tetrahydro-1H-pyrazino [1,2-a]quinoxalin-5(6H) -one (0.38 mmol) in 6 ml absolute ethanol was added 10% Pd/C (150 mg) and excess cyclohexene (3 ml). The black reaction mixture was heated to reflux. After 5 h, the mixture was cooled to rt and filtered through a pad of celite, washing heavily with methanol. The filtrate was concentrated to a colorless residue. The crude material was purified by radial PLC (1 mm plate, load and elute with methanol) to give the title compound as a colorless oil (30 mg, 24%). 1H NMR (CDCl3, 300 MHz) δ7.12 (d, J=8.1 Hz, 1H), 6.95 (dd, J=8.5, 1.9 Hz, 1H), 6.76-6.82 (m, 3H), 6.67 (d, J=1.8 Hz, 1H), 3.83 (s, 3H), 3.53-3.67 (m, 3H), 3.18 (m, 1H), 2.79-3.01 (m, 3H), 2.26 (s, 3H) ppm. MS (ESI) m/z=324.2 [M+H]+.

reactant | 3-carbobenzyloxy-8-(4-methoxy-2-methylpheny)-2,3,4, 4a-tetrahydro-1H-pyrazino [1,2-a]quinoxalin-5(6H) -one | 0.38 mmol | C(=O)(OCC1=CC=CC=C1)N1CC2N(C3=CC=C(C=C3NC2=O)C2=C(C=C(C=C2)OC)C)CC1 | C27H27N3O4
reactant | cyclohexene | 3 ml | C1=CCCCC1 | C6H10
solvent | ethanol | 6 ml | C(C)O | C2H6O
catalyst | Pd/C | 150 mg | [Pd] | Pd
product | 8-(4-Methoxy-2-methylphenyl)-2,3,4,4a-tetrahydro-1H-pyrazino[1,2-a]quinoxalin-5(6H)-one | 30 mg, 24% | COC1=CC(=C(C=C1)C=1C=C2NC(C3N(C2=CC1)CCNC3)=O)C | C19H21N3O2
